US05663200
45e) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3,4-dimethoxyphenyl)methyl]hexanoic acid
In analogy with Example 44e), 804 mg of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-dimethoxyphenyl)methyl]hexanoic acid in 5.94 ml of DMF are silylated with 1.162 g of tert-butyldimethylchlorosilane and 946.6 mg of imidazole. The silyl ester in the crude product is cleaved at RT in 2 h in a mixture consisting of 19.61 ml of methanol, 7.56 ml of THF, 7.56 ml of water and 1.334 g of potassium carbonate. The title compound is purified by being chromatographed twice on silica gel (eluents: D, C, J and B). TLC Rf (C)=0.27. MS M+ =557.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-dimethoxyphenyl)methyl]hexanoic acid | 804 mg | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=C(C=C1)OC)OC)O)CC1=CC=CC=C1 | C26H35NO7
reactant | tert-butyldimethylchlorosilane | 1.162 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 946.6 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.334 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5.94 ml | CN(C)C=O | C3H7NO
solvent | water | 7.56 ml | O | H2O
solvent | THF | 7.56 ml | C1CCOC1 | C4H8O
solvent | methanol | 19.61 ml | CO | CH4O
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3,4-dimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=C(C=C1)OC)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C32H49NO7Si
